US08791288B2
Synthesis of 1-(1-methylspiro[4.4]nonyl methacrylate (Monomer 3)
With stirring under nitrogen atmosphere at 40° C., 1300 ml of toluene was added dropwise to a tetrahydrofuran solution of 1.6 mol methylmagnesium chloride (which had been prepared from 39 g of metallic magnesium, 1300 ml of tetrahydrofuran and chloromethane) and then a mixture of 111 g of spiro[4.4]nonan-1-one (which had been synthesized from cyclopentanone by a method as described in A. P. Krapcho, Synthesis, 1974, p 383 and references cited therein) and 1300 ml of toluene added. The reaction mixture was stirred for 1.5 hours at 70° C. and returned to room temperature, after which 20% hydrochloric acid was added to stop the reaction. Through ordinary work-up of extraction, washing and drying, and subsequent vacuum distillation, there was obtained 103 g (yield 83%) of the target compound, 1-methylspiro[4.4]nonan-1-01.

reactant | methylmagnesium chloride | 1.6 mol, 1300 ml, 39 g | C[Mg]Cl
reactant | spiro[4.4]nonan-1-one | 111 g | C1(CCCC12CCCC2)=O | C9H14O
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | hydrochloric acid | Cl | ClH
reactant | toluene | 1300 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 1300 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-methylspiro[4.4]nonyl methacrylate | 103 g, yield 83% | C(C(=C)C)(=O)OC1(CCCC12CCCC2)C | C14H22O2
